US07618990B2
In the same manner as described in step 3 of Example 81, a solution of 4-(2-bromo-acetyl)-benzonitrile (3.8 g, 17.1 mmol) and (2-hydroxy-ethyl)-thiourea, prepared in the previous step, in 50 mL of ethanol was heated at reflux for 2 h. The reaction was concentrated to a residue. The residue was dissolved in ethyl acetate and washed with saturated NaHCO3. The organic layer was dried over anhydrous MgSO4, filtered and concentrated in vacuo to give 6.2 g of crude product. The crude product was purified on silica gel using a stepwise gradient of 3:1 to 2:1 hexane:ethyl acetate to give 4-{2-[(2-hydroxyethyl)amino]-1,3-thiazol-4-yl}benzonitrile (1.6 g, 39%), mp 80-82° C.

reactant | 4-(2-bromo-acetyl)-benzonitrile | 17.1 mmol, 3.8 g | BrCC(=O)C1=CC=C(C#N)C=C1 | C9H6BrNO
reactant | (2-hydroxy-ethyl)-thiourea | OCCNC(=S)N | C3H8N2OS
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-{2-[(2-hydroxyethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 1.6 g, 39% | OCCNC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C12H11N3OS
